US06521643B1
A suspension of 4-(4-methoxypyridin-2-yl)-2-nitrotoluene (300 mg) in tetrahydrofuran (3 ml) and ethanol (3 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 150 mg) under a hydrogen atmosphere for 3 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 5-(4-methoxypyridin-2-yl)-2-methylaniline (254 mg).

reactant | 4-(4-methoxypyridin-2-yl)-2-nitrotoluene | 300 mg | COC1=CC(=NC=C1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H12N2O3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 5-(4-methoxypyridin-2-yl)-2-methylaniline | 254 mg | COC1=CC(=NC=C1)C=1C=CC(=C(N)C1)C | C13H14N2O
